US08957215B2
Triethylamine (1.94 mL, 13.9 mmol) and diphenylphosphoryl azide (2.76 mL, 12.8 mmol) were added to a solution of 2-bromo-1,3-benzothiazole-6-carboxylic acid (3.0 g, 11.6 mmol) in tert-butanol (100 mL) and the reaction mixture was stirred at 80° C. for 4 h. The solvent was evaporated under reduced pressure and the residue was subjected to flash chromatography (Heptane/EtOAc gradient) to give tert-butyl (2-bromo-1,3-benzothiazol-6-yl)carbamate (1.1 g) as a white solid. MS m/z (M+H) 329, 331.

reactant | Triethylamine | 13.9 mmol, 1.94 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 12.8 mmol, 2.76 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-bromo-1,3-benzothiazole-6-carboxylic acid | 11.6 mmol, 3.0 g | BrC=1SC2=C(N1)C=CC(=C2)C(=O)O | C8H4BrNO2S
reactant | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl (2-bromo-1,3-benzothiazol-6-yl)carbamate | 1.1 g | BrC=1SC2=C(N1)C=CC(=C2)NC(OC(C)(C)C)=O | C12H13BrN2O2S
